US04616086
Ethyl 4-[1-(2-phenoxypropyl)-piperazin-4-yl]-benzoate
In 60 ml. HMPT there are dissolved 17.6 g. (75 mmole) ethyl 4-(piperazin-1-yl)-benzoate and 17.28 g. (75 mmole) p-toluenesulphonic acid (2-phenoxypropyl ester) and the solution is flushed with nitrogen and kept for 12 hours at reflux temperature under nitrogen. Thereafter, a further 10 mmole of tosylate are added. The reaction mixture is maintained at reflux temperature for a further 20 hours, another 1.7 g. tosylate is added thereto and heating continued for 6 hours. The reaction mixture is then cooled, stirred into water and extracted three times with methylene chloride. The combined organic phases are washed with water, dried with anhydrous magnesium sulphate and mixed with hydrogen chloride-containing ether. After evaporation, the residue crystallises to give 11.4 g. (34% of theory) of product which, after recrystallisation from ethanol/diethyl ether (1:3 v/v) gives 8.1 g. (24% of theory) ethyl 4-[1-(2-phenoxypropyl)-piperazin-4-yl]-benzoate hydrochloride; m.p. 200°-202° C.

reactant | HMPT | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | ethyl 4-(piperazin-1-yl)-benzoate | 75 mmole | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
reactant | tosylate | 10 mmole | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | ethyl 4-[1-(2-phenoxypropyl)-piperazin-4-yl]-benzoate hydrochloride | Cl.O(C1=CC=CC=C1)C(CN1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1)C
solvent | water | O | H2O
product | Ethyl 4-[1-(2-phenoxypropyl)-piperazin-4-yl]-benzoate | O(C1=CC=CC=C1)C(CN1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1)C | C22H28N2O3
